US06544985B2
(2-Amino-4-cyano-5-dimethylamino-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (4-cyano-5-dimethylamino-2-nitro-phenyl)-carbamic acid tert-butyl ester (Example C20) (3.9 g, 12.7 mmol) by reduction with SnCl2.2H2O according to the general procedure J (method b). Obtained as a pale brown solid (2.05 g, 58%).

reactant | (4-cyano-5-dimethylamino-2-nitro-phenyl)-carbamic acid tert-butyl ester | 12.7 mmol, 3.9 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C#N)[N+](=O)[O-])=O | C14H18N4O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
product | (2-Amino-4-cyano-5-dimethylamino-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C#N)N)=O | C14H20N4O2
